US04824958
Methyl 3-(1-methylethoxy)-5-phenyl-2-thiophenecarboxylate.
Methyl 3-hydroxy-5-phenyl-2-thiophenecarboxylate (20.0 g, 85 mmoles) is dissolved in dimethylsulfoxide (80 mL) under argon and cooled in an ice bath. Potassium t-butoxide (10.1 g, 90 mmoles) is added, followed after 25 minutes by 2-bromopropane (22.1 g, 180 mmoles), and the ice bath is removed. After 24 hours the mixture is heated to 80° C. for 1 hour, then poured into ice water (500 mL), stirred, and acidified with concentrated HCl. The mixture is extracted with dichloromethane (3×200 mL) and the combined extracts are washed with brine, dried over MgSO4 and stripped of solvent under reduced pressure to leave the product as a syrupy residue (22.1 g) sufficiently pure for further use.

reactant | Methyl 3-hydroxy-5-phenyl-2-thiophenecarboxylate | 85 mmoles, 20.0 g | OC1=C(SC(=C1)C1=CC=CC=C1)C(=O)OC | C12H10O3S
reactant | Potassium t-butoxide | 90 mmoles, 10.1 g | CC(C)([O-])C.[K+]
reactant | 2-bromopropane | 180 mmoles, 22.1 g | BrC(C)C | C3H7Br
solvent | dimethylsulfoxide | 80 mL | CS(=O)C | C2H6OS
product | Methyl 3-(1-methylethoxy)-5-phenyl-2-thiophenecarboxylate | 22.1 g | CC(C)OC1=C(SC(=C1)C1=CC=CC=C1)C(=O)OC | C15H16O3S
